US09376422B2
Step 3: synthesis of methyl 3-((4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-2-methylbenzoate (1.5 g, 9.1 mmol) and 4-hydroxy-4-methylcyclohexanone (1.51 ml, 11.8 mmol) in 10 ml of dichloroethane was added acetic acid (3.2 mL, 55 mmol) and the reaction mixture stirred at room temperature for 20 minutes. The reaction mixture was cooled to 0° C. and sodium triacetoxyborohydride (5.78 g, 27.3 mmol) was added and the mixture stirred at room temperature overnight. The reaction mixture was neutralized with sat. NaHCO3, extracted with DCM, dried over Na2SO4, concentrated under reduced pressure, and purified by silica gel column chromatography to afford the title compound which was carried forward as a mixture of cis and trans isomers (1.4 g, 56%).

reactant | methyl 3-amino-2-methylbenzoate | 9.1 mmol, 1.5 g | NC=1C(=C(C(=O)OC)C=CC1)C | C9H11NO2
reactant | 4-hydroxy-4-methylcyclohexanone | 11.8 mmol, 1.51 ml | OC1(CCC(CC1)=O)C | C7H12O2
reactant | acetic acid | 55 mmol, 3.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 27.3 mmol, 5.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | methyl 3-((4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate | OC1(CCC(CC1)NC=1C(=C(C(=O)OC)C=CC1)C)C | C16H23NO3
